US09193689B2
To a stirred solution of 4-formylbenzonitrile (68 mg, 0.51 mmol) and 3-(tert-Butyl-diphenyl-silanyloxy)-3-methyl-azetidine hydrochloride (188 mg, 0.51 mmol) in 1:1 MeOH/DMF (26 mL) was added acetic acid (catalytic). The reaction mixture was stirred under N2 at 0° C. for 1 h. Sodium cyanoborohydride (1M in THF, 0.6 mL, 0.57 mmol) was added and the reaction mixture stirred at RT, under N2 for 18 h. The reaction mixture was concentrated in vacuo, the residue suspended in H2O (10 mL), washed with CH2Cl2 (2×10 mL) and the solution passed through a phase separation cartridge. The combined organic layers were concentrated in vacuo and the crude residue purified by silica gel chromatography eluting with 100% isohexane and increasing the polarity 100% EtOAc to afford 4-[3-(tert-butyl-diphenyl-silanyloxy)-3-methyl-azetidin-1-ylmethyl]-benzonitrile as a colourless oil (196 mg, 86%).

reactant | 4-formylbenzonitrile | 0.51 mmol, 68 mg | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | 3-(tert-Butyl-diphenyl-silanyloxy)-3-methyl-azetidine hydrochloride | 0.51 mmol, 188 mg | Cl.C(C)(C)(C)[Si](OC1(CNC1)C)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | MeOH DMF | 26 mL | CO.CN(C)C=O
reactant | Sodium cyanoborohydride | 0.57 mmol, 1M, 0.6 mL | C(#N)[BH3-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[3-(tert-butyl-diphenyl-silanyloxy)-3-methyl-azetidin-1-ylmethyl]-benzonitrile | 196 mg, 86% | C(C)(C)(C)[Si](OC1(CN(C1)CC1=CC=C(C#N)C=C1)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H32N2OSi
